US07807659B2
Method I: (S)-1-(Isoquinoline-1-carbonyl)-2-piperidinecarboxylic acid
A stirred solution of (S)-1-(isoquinoline-1-carbonyl)-2-piperidinecarboxylic acid methyl ester (1.05 g, 3.52 mmol) in THF (20 ml) at room temperature was treated with water (10 ml). Lithium hydroxide (84 mg, 3.51 mmol) was then added and the resulting mixture was stirred at room temperature for 16 hrs. The resulting mixture was concentrated to remove the organic solvent. The resulting solution was then washed with diethyl ether and the remaining aqueous layer was made acid with 2 N HCl. The resulting solution was extracted with ethyl acetate and the organic layer was separated, dried (Na2SO4), filtered and concentrated to reveal a white solid (902 mg, 90%): 1H NMR (400 MHz, d4-MeOH) δ 1.20-2.52 (6H, m), 3.10-3.39 (2H, m), 4.10-4.90 (1H, m), 7.68-8.55 (5H, m).

reactant | (S)-1-(isoquinoline-1-carbonyl)-2-piperidinecarboxylic acid methyl ester | 3.52 mmol, 1.05 g | COC(=O)[C@H]1N(CCCC1)C(=O)C1=NC=CC2=CC=CC=C12 | C17H18N2O3
reactant | water | 10 ml | O | H2O
reactant | Lithium hydroxide | 3.51 mmol, 84 mg | [OH-].[Li+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (S)-1-(Isoquinoline-1-carbonyl)-2-piperidinecarboxylic acid | C1(=NC=CC2=CC=CC=C12)C(=O)N1[C@@H](CCCC1)C(=O)O | C16H16N2O3
